US06528068B1
Synthesis of N-lauroyl-N-methyl-β-alanine isopropyl ester
One hundred grams(100) of N-lauroyl-N-methyl-β-alanine and 750 ml of isopropanol were charged into a 1,000-milliliter flask. Further, 2 ml of conc. sulfuric acid were added as the catalyst. The mixture was heated under ref lux for reaction for 8 hours.

reactant | N-lauroyl-N-methyl-β-alanine | One hundred grams | C(CCCCCCCCCCC)(=O)N(CCC(=O)O)C | C16H31NO3
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | isopropanol | 750 ml | C(C)(C)O | C3H8O
product | N-lauroyl-N-methyl-β-alanine isopropyl ester | C(C)(C)OC(CCN(C)C(CCCCCCCCCCC)=O)=O | C19H37NO3
